US07163932B2
Step 2 Ethyl 3-bromo-4-cyanobenzoate
To a three necked 3 L round bottomed flask with a mechanical stirrer was added 3 M aqueous HCl (790 mL), followed by ethyl 4-amino-3-brombenzoate (195 g, 0.8 mol) and the mixture was stirred for 15 min. After cooling to 5° C., a solution of 4M aqueous NaNO2 (240 mL, 0.96 mol) was added over a period of 30–45 min. The resulting mixture was further stirred for 30 min. and an almost homogenous solution was obtained. The mixture was filtered through glass wool to remove the insoluble residue. The solution was then added to a vigorously stirred solution of CuCN (111 g, 1.24 mol) and NaCN (162 g, 3.3 mol) in H2O (1 L) and EtOAc (500 mL) at room temperature in a 6 L Erlenmeyer flask over ˜45 min. The resulting mixture was further stirred at r.t. for 30 min., filtered through celite and extracted with EtOAc. The EtOAc extract was washed with brine, 0.5 M aqueous NaOH, dried (MgSO4) and concentrated. Chromatography over silica gel and elution with hexanes:EtOAc (6:1), then (3:1), swished with hexanes and small amount of Et2O to give a light brown powder. The mother liquor was concentrated and swished again. Combined yield of the title compound was 119 g (58%).

reactant | HCl | 3 M, 790 mL | Cl | ClH
reactant | ethyl 4-amino-3-brombenzoate | 0.8 mol, 195 g | NC1=C(C=C(C(=O)OCC)C=C1)Br | C9H10BrNO2
reactant | NaNO2 | 0.96 mol, 4M, 240 mL | N(=O)[O-].[Na+]
reactant | CuCN | 1.24 mol, 111 g | C(#N)[Cu]
reactant | NaCN | 3.3 mol, 162 g | [C-]#N.[Na+]
solvent | H2O | 1 L | O | H2O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | Ethyl 3-bromo-4-cyanobenzoate | BrC=1C=C(C(=O)OCC)C=CC1C#N | C10H8BrNO2
